US06747032B2
Step A: 2-Allyloxy-4-methoxybenzaldehyde
To a solution of 100 g of 2-hydroxy-4-methoxybenzaldehyde in 2 liters of acetone add 79.5 ml of allyl bromide and then, gradually, 272 g of potassium carbonate. Heat at reflux for 4 hours and then filter; concentrate the filtrate in vacuo, take up the residue in 1 liter of dichloromethane and wash the solution with 1N sodium hydroxide solution and then with saturated sodium chloride solution. Dry over magnesium sulphate and concentrate in vacuo.

reactant | 2-hydroxy-4-methoxybenzaldehyde | 100 g | OC1=C(C=O)C=CC(=C1)OC | C8H8O3
reactant | allyl bromide | 79.5 ml | C(C=C)Br | C3H5Br
reactant | potassium carbonate | 272 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | 2 liters | CC(=O)C | C3H6O
product | 2-Allyloxy-4-methoxybenzaldehyde | C(C=C)OC1=C(C=O)C=CC(=C1)OC | C11H12O3
